US07973175B2
(2S,4R,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester XIIa
The other isomer at position 4 may be prepared as follows: A solution of (2S,4R,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester benzyl ester (0.58 g) in 8 mL of methanol is treated with 0.058 g of 10% Pd/C and placed under an atmosphere of hydrogen for 90 minutes at room temperature. The catalyst is removed by filtration and the solvent removed completely to give 0.44 g of the desired compound as a viscous oil. 1H-NMR δ (d6-DMSO): 12.90 (1H, Brs, exch D2O, CO2H), 7.40 (1H, m, Ph), 6.95 (1H, m, Ph), 6.80 (1H, m. Ph), 5.17 (1H, d, PhCHN), 4.13 (1H, m NCHCO2), 4.01 (2H, m, CH2O), 3.73 (3H, s, CH3O), 3.55-3.45 (3H, m, CHCO+CH2O), 3.25 (3H, s, CH3O), 2.40-2.15 (2H, s, CH2-ring), 1.93 (2H, m, CH2), 1.85 (3H, s, Me), 1.28 (9H, s, tBu).

reactant | (2S,4R,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester benzyl ester | 0.58 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N([C@H]([C@@H](C1)C(C)=O)C1=CC(=C(C=C1)OC)OCCCOC)C(=O)OC(C)(C)C | C30H39NO8
solvent | methanol | 8 mL | CO | CH4O
catalyst | Pd/C | 0.058 g | [Pd] | Pd
product | (2S,4R,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.44 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H]([C@@H]1C1=CC(=C(C=C1)OC)OCCCOC)C(C)=O)C(=O)O | C23H33NO8
